US06924376B2
b) 2-{(R)-1-[N-Toluoyl-(3-phthalimido-2-oxo-propyl)amino]-2-methyl-propyl}-3-benzyl-7-chloro-chromen-4-One
To 2-[(R)-1-(3-phthalimido-2-oxo-propylamino)-2-methyl-propyl]-3-benzyl-7-chloro-chromen-4-one (0.88 g, 1.5 mMol) in CH2Cl2 (10 mL) was added Et3N (0.23 mL, 1.6 mMol) and toluoyl chloride (0.21 mL, 1.6 mMol). The reaction was stirred at RT for 18 h, concentrated under vacuum, taken up in EtOAc, washed with 1 N HCl, brine, dried (MgSO4) and evaporated to dryness. Purification by flash chromatography on silica gel (5-15% EtOAc/hexane) followed by trituration with pet, ether, filtration and drying under vacuum gave the title compound (0.89 g, 90%) as a white solid: MS (ES) m/e 661.2 (M+H)+.

reactant | 2-[(R)-1-(3-phthalimido-2-oxo-propylamino)-2-methyl-propyl]-3-benzyl-7-chloro-chromen-4-one | 1.5 mMol, 0.88 g | C1(C=2C(C(N1CC(CN[C@H](C(C)C)C=1OC3=CC(=CC=C3C(C1CC1=CC=CC=C1)=O)Cl)=O)=O)=CC=CC2)=O | C31H27ClN2O5
reactant | Et3N | 1.6 mMol, 0.23 mL | CCN(CC)CC | C6H15N
reactant | toluoyl chloride | 1.6 mMol, 0.21 mL | C=1(C(=CC=CC1)C(=O)Cl)C | C8H7ClO
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | 2-{(R)-1-[N-Toluoyl-(3-phthalimido-2-oxo-propyl)amino]-2-methyl-propyl}-3-benzyl-7-chloro-chromen-4-One | 0.89 g, 90% | C=1(C(=CC=CC1)C(=O)N([C@H](C(C)C)C=1OC2=CC(=CC=C2C(C1CC1=CC=CC=C1)=O)Cl)CC(CN1C(C=2C(C1=O)=CC=CC2)=O)=O)C | C39H33ClN2O6
